US05559140
N-tert-Butoxycarbonyl-L-valinol
A solution of valinol (1.03 g, 10 mmol) and di-tert-butyl dicarbonate (2.4 g, 11 mmol) in methanol (10 ml) was kept for 1 hour at room temperature. After concentration in vacuo, the residue was purified by flash chromatography (silica gel, ethyl acetate/petroleum ether: 1/1) to give the title compound in quantitative yield. Rf: 0.36 (ethyl acetate/petroleum ether: 1/1).

reactant | valinol | 10 mmol, 1.03 g | N[C@@H](C(C)C)CO | C5H13NO
reactant | di-tert-butyl dicarbonate | 11 mmol, 2.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 10 ml | CO | CH4O
product | N-tert-Butoxycarbonyl-L-valinol | quantitative yield | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)CO | C10H21NO3
